* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1009.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
R1 N001 OUT 3.6K
X§U1 OUT 0 N002 LT1009
R2 OUT N002 {10K*(1-x)}
R3 N002 0 {10K*x}
.dc TEMP -55 125 .1
.step param x .4 .6 .1
.lib LTC3.lib
.backanno
.end
