* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1010.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V3 N001 0 SINE(0 1 1K)
X§U1 N001 +V -V NC_01 N002 LT1010
.tran 3m
.lib LT1010.lib
.backanno
.end
