* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1011.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 0 N001 -V NC_01 N003 N002 +V LT1011
V1 +V 0 15
V2 -V 0 -15
V3 N001 0 PULSE(-100m 100m 0 .5m .5m 0 1m)
R1 +V N002 2K
Q1 N003 N004 N005 0 2N3904
R2 N005 0 3K
V4 N004 0 PULSE(0 2.7 0 1u 1u 5m 10m)
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 30m
.lib LT1011.sub
.backanno
.end
