* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1015.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
V2 N004 0 PULSE(2 3 0 .5u .5u 0 1u)
X§U1 N004 N002 N001 0 N003 N005 LT1015
R1 N001 N002 10K
R2 N002 0 10K
V3 N005 0 PULSE(0 5 0 5n 5n 5u 10u)
.tran 30u
.lib LT1015.sub
.backanno
.end
