* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1017.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
X§U1 N002 N001 +V 0 OUT LT1017
R1 N002 0 100K
R2 +V N002 1K
R3 N001 0 20K
C1 +V N001 1µ
.tran 5m startup
* Delay On Power Up
.lib LT1017.sub
.backanno
.end
