* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1018.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N002 0 9
X§U1 N005 N003 N002 0 OUT LT1018
R1 N005 N009 1Meg
R2 N009 0 10K
D1 N008 N009 1N4148
D2 N003 N001 1N4148
R3 N001 N002 47K
D3 N001 0 1N4148
C1 OUT N001 .001µ
R4 OUT N001 3Meg
D4 OUT N004 1N4148
R5 N002 N004 220K
D5 N004 N007 1N4148
D6 0 N007 LT1034
X§U2 N007 N010 N002 0 N008 LT1018
R6 OUT N010 330K
C2 0 N010 .1µ
C3 0 N003 .1µ
Q1 N003 N006 0 0 2N3904
R7 N008 N006 100K
R8 N003 IN 1.2Meg
V2 IN 0 PWL(0 0 .5 1)
C4 OUT N009 220p
C5 0 N004 2.2µ
C6 N010 N008 100p
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran .5 startup
.model LT1034 D(Ron=10 Vrev=1.16 epsilon=100m revepsilon=100m)
* Low Power V-to-F Converter
.lib LT1018.sub
.backanno
.end
