* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1026.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 N003 N004 OUT- 0 IN N002 OUT+ LT1026
C1 N002 N001 1µ
C2 N003 N004 1µ
C3 0 OUT- 1µ
C4 OUT+ 0 1µ
V1 IN 0 {V}
.tran 3m startup
.step param V list 4 5 6
.lib LT1026.sub
.backanno
.end
