* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1057.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
V3 IN 0 SINE(0 1 1K)
X§U1 0 N001 +V -V N002 LT1057
C1 N001 N002 330p
X§U2 IN N003 +V -V N005 LT1057
C2 N003 N005 330p
R1 N001 IN 10K
X§U3 N005 +V -V NC_01 N004 LT1010
R2 N004 N003 10K
X§U4 N002 +V -V NC_02 N006 LT1010
R3 N001 N006 10K
Rload N004 N006 20
.tran 3m
* Fast, Precision Bridge Amplier
.lib LT1010.lib
.lib LTC.lib
.backanno
.end
