* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1077.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 3
R1 OUT N001 2Meg
R2 N001 IN 1Meg
V3 IN 0 SINE(0 1 100)
X§U1 N002 N001 +V 0 OUT LT1078
R3 N002 0 1Meg
.tran .1
* Half-Wave Rectifier
.lib LTC.lib
.backanno
.end
