* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1078.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
R1 N002 N001 200K
R2 N001 IN 200K
V3 IN 0 SINE(0 1 100)
X§U1 0 N001 +V 0 N003 LT1078
D1 N003 N002 1N4148
X§U2 N002 OUT +V 0 OUT LT1078
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 30m
* Absolute Value Circuit(Full-Wave Rectifier)
.lib LTC.lib
.backanno
.end
