* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1079.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
R1 N006 N005 1Meg
R2 N005 N003 200K
V3 IN- IN+ SINE(0 1m 10)
R3 N002 N001 1Meg
R4 N004 N006 1Meg
R5 OUT N002 9.1Meg
R6 0 N004 9.1Meg
R7 N003 N001 1Meg
V2 IN+ 0 SINE(0 1 1)
R8 IN- N007 20Meg
R9 IN+ N007 10Meg
R10 N008 N007 20Meg
V4 -V 0 -5
X§U1 IN+ N005 +V -V N006 LT1078
X§U2 N004 N002 +V -V OUT LT1078
X§U3 IN- N003 +V -V N001 LT1078
X§U4 IN+ N008 +V -V N007 LT1078
.tran 1
* Picoampere Input Current, Triple Op Amp Instrumentation Amplifier with bias Current Cancellation
.lib LTC.lib
.backanno
.end
