* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1084.asc
* Generated by LTspice 24.1.9 for Windows.
R1 OUT N001 121
R2 N001 0 365
V1 IN 0 PWL(0 0 1 10) Rser=0.1
Rload OUT 0 10
C1 OUT 0 10µ
X§U1 N001 OUT IN LT1084
.tran 1
.lib LT1083.lib
.backanno
.end
