* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1097.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 50K
V3 IN- IN+ SINE(0 1 100)
X§U1 N002 N001 +V -V OUT LT1097
R3 N001 IN- 50K
R2 N002 IN+ 50K
R4 0 N002 50K
V4 IN+ 0 SINE(0 27 1K)
.tran 30m
* ±27V Common Mode Range Difference Amplifier
.lib LTC.lib
.backanno
.end
