* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1106.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N010 0 .1µ
R1 N010 0 1Meg
L1 N001 N002 10µ
D1 N002 N003 MBR0530L
C2 N003 0 1µ
V1 N001 0 3.3
M§Q1 N003 N005 N004 N004 Si9803DY
M§Q2 N003 N009 N007 N007 Si9803DY
X§U1 0 N010 N001 MP_01 N008 0 MP_02 MP_03 N002 MP_04 MP_05 MP_06 0 N006 N009 N005 N007 N004 N003 N011 LT1106
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100m startup
.lib LT1106.sub
.backanno
.end
