* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1107.asc
* Generated by LTspice 24.1.9 for Windows.
R1 OUT N003 220K
R2 N003 0 73.5K
L1 IN N001 33µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS140
C1 OUT 0 100µ Rser=0.02
V1 IN 0 2.8
X§U1 IN IN N001 0 0 N002 N004 N003 LT1107 top=1K bot=1T
Rload OUT 0 25
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10m startup
.lib LT1107.sub
.backanno
.end
