* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1113.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 237K
R2 N001 IN 237K
V3 IN 0 AC 1
X§U1 0 N004 +V -V N002 LT1113
R3 N004 N001 249K
C1 N002 N004 .033µ
R4 OUT N003 154K
R5 N003 N002 154K
X§U2 0 N005 +V -V OUT LT1113
R6 N005 N003 249K
C2 OUT N005 .01µ
C3 N003 0 .33µ
C4 N001 0 .1µ
.ac oct 100 .1 300
* 10Hz Fourth Order Chebyshev Lowpass Filter
.lib LTC.lib
.backanno
.end
