* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1115.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 18
V2 -V 0 -18
R1 N005 N004 499
X§U1 IN N004 +V -V N002 LT1028
X§U2 N003 +V -V N001 OUT LT1010
R2 +V N001 49.9
D1 N002 -V 2N4304
R3 N003 N002 100
R4 N006 N005 17.8K
R5 OUT N006 210K
C1 OUT N006 .015µ
C2 N006 N005 3900p
R6 OUT N007 82.5K
C3 N007 0 2200µ
C4 N007 0 4.7µ
R7 N004 N007 232.6
C5 IN 0 50p
R8 IN 0 47.5K
V3 IN 0 ac 1
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.ac oct 100 10 20K
.model 2N4304 D(Ron=500 Ilimit=2m)
* RIAA Phonograph Preamplifier
.lib LT1010.lib
.lib LT1028.lib
.backanno
.end
