* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1118.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 MP_01 N001 N003 N001 N002 LT1118
V1 N001 0 5
R1 N002 N003 16.9K
R2 N003 0 10K
C1 N002 0 1µ
.tran 3m startup
.lib LT1118.lib
.backanno
.end
