* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1121.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 1µ
R1 N001 0 10K
R2 OUT N001 10K
Rload OUT 0 100
X§U1 OUT N001 0 MP_01 NC_02 MP_03 MP_04 IN LT1121
.tran 1
* Note Abs. Max SHDN pin voltage 6.5
.lib LT1121.lib
.backanno
.end
