* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1126.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 364.76K
R2 N001 0 365
V3 IN 0 ac 1
X§U1 IN N001 +V -V OUT LT1126
.ac oct 10 1m 1Meg
* Gain 1000 Amplifier with 0.01% Accuracy, DC to 5Hz
.lib LTC.lib
.backanno
.end
