* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1160.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 N003 N005 N002 0 0 MP_01 N006 N006 N001 0 N004 N004 N001 LT1160
V1 N001 0 15
R1 N001 N002 10K
V2 N003 0 pulse(0 3.3 0 1n 1n 1u 2u)
V3 N005 0 pulse(0 3.3 .5u 1n 1n 1u 2u)
C1 0 N004 3000p
C2 0 N006 3000p
.tran 6u
.lib LT1160.sub
.backanno
.end
