* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1166.asc
* Generated by LTspice 24.1.9 for Windows.
Q1 Vbot N014 N016 0 2N2222
Q2 N014 N015 N017 0 2N2222
Q3 Vtop N004 N003 0 2N2907
Q4 N004 N002 N001 0 2N2907
R1 N003 N002 100
R2 N016 N015 100
R3 N004 N014 5.6K
R4 N009 vIN 4.3k
V1 vIN 0 SINE(0 1 1K) AC 1
R5 N001 N003 47
R6 N017 N016 47
R7 N005 Vtop 100
V2 N001 0 15
C1 0 Vtop 500p
R10 N013 Vbot 100
C2 0 Vbot 500p
V3 N017 0 -15
Rload vOUT 0 10
R8 vOUT N010 1
R9 N008 vOUT 1
Q5 N001 N005 N006 0 2N2222
D1 N006 N007 1N4007
Q6 N001 N007 N008 0 TIP29
R11 N007 vOUT 150
R12 vOUT N011 150
Q7 N017 N013 N012 0 2N2907
D2 N011 N012 1N4007
Q§TIP30 N017 N011 N010 0 PNP
X§U1 Vtop N009 vOUT Vbot N010 N010 N008 N008 LT1166
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10m startup
* .ac oct 1000 10 100meg
.MODEL TIP30        PNP(Is=51.23f Xti=3 Eg=1.11 Vaf=100 Bf=434.1 Ise=51.23f Ne=1.22
+   Ikf=.3883 Nk=.5544 Xtb=2.2 Br=55.47 Isc=51.23f Nc=1.205
+   Ikr=10.87 Rc=.3443 Cjc=136.9p Mjc=.3155 Vjc=.75 Fc=.5
+   Cje=179.9p Mje=.4294 Vje=.75 Tr=20.25n Tf=13.05n Itf=6.85
+   Xtf=1.573 Vtf=10 Rb=.1)
.MODEL TIP29       NPN(Is=2.447p Xti=3 Eg=1.11 Vaf=100 Bf=208.2 Ise=70.69p
+   Ne=1.565 Ikf=.9743 Nk=.6134 Xtb=1.5 Br=12.59 Isc=11.68n
+   Nc=1.835 Ikr=3.86 Rc=.4685 Cjc=142p Mjc=.4353 Vjc=.75 Fc=.5
+   Cje=188.5p Mje=.4878 Vje=.75 Tr=194.2n Tf=19.85n Itf=164.1
+   Xtf=5.945 Vtf=10 Rb=.1)
.lib LT1166.sub
.backanno
.end
