* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1169.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 1K
V3 IN 0 PULSE(0 1 0 1u 1u .5m 1m)
X§U1 IN N001 +V -V N002 LT1169
R2 OUT N002 33
C1 N002 N001 .1µ
Cload 0 OUT .1µ
.tran 3m
* Unity-Gain Buffer with Extended Load Capacitance Drive Capability
.lib LTC.lib
.backanno
.end
